US08124629B2
A heterogeneous mixture of potassium carbonate (46 g, 0.33 mol), water (260 mL), and acetone (260 mL) was added in three portions to a 0° C. solution of 4-acetoxy-6-fluoro-3-methyl-naphthalene-2-carboxylic acid methyl ester (18.4 g, 0.066 mol) in methanol (1 L). The resulting mixture was stirred at 0° C. for 15 minutes, then warmed to room temperature and stirred at room temperature for 1 hour. The reaction mixture was concentrated in vacuo. The remaining oily suspension was diluted with ethyl acetate and washed with 1 N aqueous HCl. The organic phase was dried (MgSO4), filtered, and concentrated to yield 9.64 g (62%) of 6-fluoro-4-hydroxy-3-methyl-naphthalene-2-carboxylic acid methyl ester as a yellowish tan solid. HRMS (ES−) cald. for C13H11FO3 [(M−H)−] 233.0619, obsd. 233.0619.

reactant | potassium carbonate | 0.33 mol, 46 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 260 mL | O | H2O
reactant | acetone | 260 mL | CC(=O)C | C3H6O
reactant | 4-acetoxy-6-fluoro-3-methyl-naphthalene-2-carboxylic acid methyl ester | 0.066 mol, 18.4 g | COC(=O)C1=CC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C15H13FO4
solvent | methanol | 1 L | CO | CH4O
product | 6-fluoro-4-hydroxy-3-methyl-naphthalene-2-carboxylic acid methyl ester | 9.64 g, 62% | COC(=O)C1=CC2=CC=C(C=C2C(=C1C)O)F | C13H11FO3
